US05690959
148.8 mg of potassium clavulanate was blended with 141.2 mg of glyceryl behenate in a Hobart blender (batchsize: 7 kgs), and the blend thus obtained was granulated as described above, to obtain Clavulanate compression mix Formula B2.

reactant | potassium clavulanate | 148.8 mg | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)[O-].[K+]
reactant | glyceryl behenate | 141.2 mg | C(CCCCCCCCCCCCCCCCCCCCC)(=O)OCC(O)CO | C25H50O4
product | Clavulanate | C1[C@@H]2N(C1=O)[C@H](/C(=C/CO)/O2)C(=O)O | C8H9NO5
